US05244889
Diethyl 2-t-butoxycarbonylamino-13-carboxy-1,14-tetradecanedicarboxylate (3.98 g, 8.40 mmol) is dissolved in methylene chloride (150.0 mL), and hydrogen chloride gas is bubbled through the solution for 15 minutes. The sealed reaction is stirred for 2.5 hours, and then the solvent is evaporated to give diethyl 2-amino-13-carboxy-1,14-tetradecanedicarboxylate hydrochloride.

reactant | Diethyl 2-t-butoxycarbonylamino-13-carboxy-1,14-tetradecanedicarboxylate | 8.40 mmol, 3.98 g | C(C)(C)(C)OC(=O)NC(CC(=O)OCC)CCCCCCCCCCC(CC(=O)OCC)C(=O)O | C26H47NO8
reactant | methylene chloride | 150.0 mL | C(Cl)Cl | CH2Cl2
product | diethyl 2-amino-13-carboxy-1,14-tetradecanedicarboxylate hydrochloride | Cl.NC(CC(=O)OCC)CCCCCCCCCCC(CC(=O)OCC)C(=O)O | InChI=1S/C21H39NO6.ClH/c1-3-27-19(23)15-17(21(25)26)13-11-9-7-5-6-8-10-12-14-18(22)16-20(24)28-4-2;/h17-18H,3-16,22H2,1-2H3,(H,25,26);1H
